US05767285
4-[4-(3-Oxobutyl)phenoxy]butanoic acid, ethyl ester (716 mg, 2.57 mmol) is dissolved in 5 mL of methanol/water (3:2) and treated with 1.24 g (9.0 mmol) of potassium carbonate according to the procedure described for Example 4 to give 385 mg (60%) of 4-[4-(3-oxobutyl)phenoxy]butanoic acid as a white powder: m.p. 97°-99°; the 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (neat) 1730, 1700, 1620, 1520 cm-1 ; Analysis calculated for C14H18O4 : C, 67.18; H, 7.25; found: C, 66.55; H, 7.09.

reactant | 4-[4-(3-Oxobutyl)phenoxy]butanoic acid, ethyl ester | 2.57 mmol, 716 mg | O=C(CCC1=CC=C(OCCCC(=O)OCC)C=C1)C | C16H22O4
reactant | potassium carbonate | 9.0 mmol, 1.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | 5 mL | CO.O
product | 4-[4-(3-oxobutyl)phenoxy]butanoic acid | 385 mg, 60% | O=C(CCC1=CC=C(OCCCC(=O)O)C=C1)C | C14H18O4
